US07202364B2
5-Trifluoromethyl-2-iodobenzyl alcohol (45 g, 0.15 mol) is dissolved in anhydrous Et2O (400 mL) and treated with phosphorous tribromide (41 mL, 0.15 mol) by dropwise addition. The reaction mixture is stirred at room temperature overnight and quenched by slow addition of water (150 mL). The organic layer is separated, washed with saturated aqueous NaHCO3 (250 mL), brine (250 mL), dried (MgSO4) and concentrated by rotary evaporator to give 5-trifluoromethyl-2-iodobenzyl bromide as an oil.

reactant | 5-Trifluoromethyl-2-iodobenzyl alcohol | 0.15 mol, 45 g | FC(C=1C=CC(=C(CO)C1)I)(F)F | C8H6F3IO
reactant | phosphorous tribromide | 0.15 mol, 41 mL | P(Br)(Br)Br | Br3P
solvent | Et2O | 400 mL | CCOCC | C4H10O
product | 5-trifluoromethyl-2-iodobenzyl bromide | FC(C=1C=CC(=C(CBr)C1)I)(F)F | C8H5BrF3I
